US04508717
A solution of m-chloroperbenzoic acid (1.46 g) in methylene chloride (30 cc) is added dropwise, in the course of 15 minutes, to a solution, cooled to 3° C., of the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-methyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (8.30 g) in methylene chloride (85 cc). The mixture is stirred at 3° C. for 4 hours 30 minutes and then diluted with methylene chloride (100 cc). The organic phase is washed successively with a semi-saturated solution of sodium bicarbonate (150 cc), distilled water (100 cc) and then a saturated solution of sodium chloride (100 cc). It is then dried over anhydrous sodium sulphate; the mixture is filtered and the filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is purified by chromatography on a column (height=30 cm, diameter=2.5 cm) containing silica gel (0.05-0.2 mm), elution being carried out with ethyl acetate (1.2 liters) and then with a mixture of ethyl acetate and methanol (95/5 by volume) (0.8 liter) and 60 cc fractions being collected. Fractions 19 to 33, containing the pure product, are combined and concentrated under reduced pressure (30 mm Hg; 4 kPa) at 30° C. to give the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-methyl)-thiazol- 5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene 5-oxide (5 g) in the form of a hard yellow foam.

reactant | m-chloroperbenzoic acid | 1.46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-methyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 8.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)CC=1C=NC=CC1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C54H43N7O5S3
solvent | methylene chloride | 30 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 85 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-methyl)-thiazol- 5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene 5-oxide | 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1C1=CN=C(S1)CC=1C=NC=CC1)=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C54H43N7O6S3
